US07037938B2
To a solution of ethyl 4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-2-methoxy-1,1′-biphenyl-4-carboxylate (220 mg) in ethanol (2.0 ml) was added 1N aqueous sodium hydroxide solution (1.2 ml), and the mixture was stirred at 40° C. for 3 hours. The solvent was removed by evaporation, and the aqueous solution was acidified with 1N hydrochloric acid and extracted with ethyl acetate (30 ml×2). The combined organic layers were washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure to give a benzoic acid product. To a solution of the product in tetrahydrofuran (1.5 ml) was added 4N hydrochloride in dioxane (1.0 ml), and the mixture was stirred at room temperature for 12 hours. The resultant solid was collected by filtration and dried to give 4′-[2-[[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]-ethyl]-2-methoxy-1,1′-biphenyl-4-carboxylic acid hydrochloride (83 mg).

reactant | ethyl 4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-(3-chlorophenyl)-2-hydroxyethyl]amino]ethyl]-2-methoxy-1,1′-biphenyl-4-carboxylate | 220 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=C(C=C(C=C1)C(=O)OCC)OC)C[C@H](O)C1=CC(=CC=C1)Cl | C31H36ClNO6
reactant | sodium hydroxide | 1N, 1.2 ml | [OH-].[Na+]
solvent | ethanol | 2.0 ml | C(C)O | C2H6O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
